### PR TITLE
[Merged by Bors] - feat(Nonarchimedean): cauchySeq_of_tendsto_div_nhds_one

### PR DESCRIPTION
**Pull request by pechersky**
Convergence of a sequence in nonarchimedean spaces only requires differences to go to zero

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean [hunk 1]
```diff
@@ -55,6 +55,39 @@ theorem cauchySeq_prod_of_tendsto_cofinite_one {f : α → G} (hf : Tendsto f co
...
+  rw [tendsto_atTop']
+  intro s hs
+  obtain ⟨t, ht⟩ := is_nonarchimedean s hs
+  have := tendsto_def.mp hf t t.mem_nhds_one
+  simp only [mem_atTop_sets, ge_iff_le, Set.mem_preimage, SetLike.mem_coe] at this
+  obtain ⟨N, hN⟩ := this
+  refine ⟨(N, N), ?_⟩
+  rintro ⟨M, M'⟩
+  simp only [ge_iff_le, Prod.mk_le_mk, and_imp]
+  intro hM hM'
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean:76]:
```suggestion
  rintro ⟨M, M'⟩ ⟨(hMN : N ≤ M), (hMN' : N ≤ M')⟩
```

File: Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean [hunk 2]
```diff
@@ -55,6 +55,39 @@ theorem cauchySeq_prod_of_tendsto_cofinite_one {f : α → G} (hf : Tendsto f co
...
+    refine (t.inv_mem_iff (x := f M' / f M)).mp ?_
+    rw [inv_div]
+    exact this _ _ hM' hM h.le
+  obtain ⟨k, rfl⟩ := Nat.exists_eq_add_of_le h
+  clear h hM'
+  induction k with
+  | zero => simpa using one_mem t
+  | succ k ih =>
+    rw [← div_mul_div_cancel _ (f (M + k))]
+    exact t.mul_mem (hN _ (hM.trans (by simp))) ih
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean:89]:
```suggestion
  | succ k ih => simpa using t.mul_mem (hN _ (by omega : N ≤ M + k)) ih
```

File: Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean [hunk 3]
```diff
@@ -55,6 +55,39 @@ theorem cauchySeq_prod_of_tendsto_cofinite_one {f : α → G} (hf : Tendsto f co
   intro i hi
   simpa using Finset.disjoint_left.mp ht hi
 
+/-- Let `G` be a nonarchimedean multiplicative abelian group, and let `f : ℕ → G` be a function
+such that the quotients tend to one. Then the function is a Cauchy sequence. -/
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean:59]: Please spell out "quotients `f (n + 1) / f n`", otherwise it's not very clear (& likewise for the additive docstring). Also I think "multiplicative" is redundant, groups in Mathlib are multiplicative unless stated otherwise.

**Review by loefflerd — COMMENTED** [review]
Looks nice! I suggested some golfs.

**Comment by pechersky** [comment]
Thanks! What do you think about an `iff` direction? Also, I couldn't find a better file to place these. Do you have an idea?

File: Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean [hunk 4]
```diff
@@ -55,6 +55,32 @@ theorem cauchySeq_prod_of_tendsto_cofinite_one {f : α → G} (hf : Tendsto f co
   intro i hi
   simpa using Finset.disjoint_left.mp ht hi
 
+/-- Let `G` be a nonarchimedean abelian group, and let `f : ℕ → G` be a function
+such that the quotients `f (n + 1) / f 1` tend to one. Then the function is a Cauchy sequence. -/
+@[to_additive "Let `G` be a nonarchimedean additive abelian group, and let `f : ℕ → G` be a
+function such that the differences `f (n + 1) - f 0` tend to zero.
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean:61]:
```suggestion
such that the quotients `f (n + 1) / f n` tend to one. Then the function is a Cauchy sequence. -/
@[to_additive "Let `G` be a nonarchimedean additive abelian group, and let `f : ℕ → G` be a
function such that the differences `f (n + 1) - f n` tend to zero.
```

**Comment by loefflerd** [comment]
Looks good now, modulo a minor typo (see suggestion). I think the file you put it in makes sense. An `iff` direction might be useful, but I don't think you can take the proof here and make it reversible; the converse would need a separate proof of its own proved separately. So I suggest saving it for another PR.

maintainer delegate

**Comment by pechersky** [comment]
I'm able to do the reverse direction in a metric space, but in the generality of this `NonarchimedeanGroup`, I haven't yet found a way. So I'm fine with leaving it.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
